US09302991B2
<Step-2>:(R)—N-(1-(6-(2,2-difluoroethoxy)pyridin-3-yl)ethyl)-2-methylpropane-2-sulfinamide (single diastereomer)
The title compound is prepared in 81% yield (1.24 g, colorless oil) from 1-(6-(2,2-difluoroethoxy)pyridin-3-yl)ethanone (1.0 g, 4.97 mmol, Step-1) and (R)-2-methylpropane-2-sulfinamide by the similar manner in Step-4 of Amine-1.

reactant | 1-(6-(2,2-difluoroethoxy)pyridin-3-yl)ethanone | 4.97 mmol, 1.0 g | FC(COC1=CC=C(C=N1)C(C)=O)F | C9H9F2NO2
reactant | (R)-2-methylpropane-2-sulfinamide | CC(C)(C)[S@@](=O)N | C4H11NOS
product | (R)—N-(1-(6-(2,2-difluoroethoxy)pyridin-3-yl)ethyl)-2-methylpropane-2-sulfinamide | 81% yield | FC(COC1=CC=C(C=N1)C(C)N[S@](=O)C(C)(C)C)F | C13H20F2N2O2S
